US07244729B2
Step 83.1: 4-[4-(3-Chloro-benzylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester
This compound is synthesized following an analogous procedure as described in Example 1, step 1.1 starting from 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzoic acid ethyl ester (WO 97/02266) and 3-chloro-benzylamine; m.p. 305-306° C.; MS-ES+: (M+H)+=407.

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2Cl)N1)=O | C15H12ClN3O2
reactant | 3-chloro-benzylamine | ClC=1C=C(CN)C=CC1 | C7H8ClN
product | 4-[4-(3-Chloro-benzylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2NCC2=CC(=CC=C2)Cl)N1)=O | C22H19ClN4O2
